* TEST SUMATORA 4 BITOWEGO
.inc tsmc180_t77a_spice.lib

;.include ./nowa-wersja/sumator_1_bit.spice ;test topografii sumatora
.include ./sumator_4_bit.spice ;test topografii sumatora


.param vdd=1.8 fclk=50e+6 tclk={1/fclk}
;VCLK CLK VSS DC 0 PULSE(0 {vdd} {tclk/2} 0.2ns 0.2ns {tclk/2} {tclk})
VSS VSS 0 0
VDD VDD 0 {vdd}
;VDD2 VDD# VDD 0

;PULSE(0 {vdd} {tclk/2} 0.2ns 0.2ns {tclk/2} {tclk})
VA1 A1 0 PULSE(0 {vdd} {tclk/2} 0.2ns 0.2ns {tclk/2} {tclk})
VA2 A2 0 0
VA3 A3 0 0
VA4 A4 0 0

VB1 B1 0 0
VB2 B2 0 0
VB3 B3 0 0
VB4 B4 0 0

VCI CI 0 0

;RL S 0 1MEG
;RL2 CO 0 1MEG

;.step param fclk 30e6 100e6 10e6 ; test czestotliwosci
.step temp -30 125 20 ; test temperaturowy
;.step param vdd 1.62 1.98 0.06 ; test napiecia zasilania

.tran 0 {2*tclk} 0 {tclk/100}

.end
